US07384975B2
P-18: 3-(4,7-Dihydroxy-5-methyl-2-oxo-2H-chromene-3-yl)-7-hydroxy-9-methyl-2-methoxy-2,3-dihydro-4H-furo[3.2-c]chromene-4-one
4,7-Dihydroxy-5-methylcoumarin (200 mg; 1.04 mmole) was dissolved in methanol (5 mL). A 60% aqueous dimethoxyacetaldehyde solution (792 μL; 8.7 mmole) was added and the reaction mixture was refluxed for 5 hours. By cooling to room temperature a white precipitate was precipitated, which was filtered off and washed with methanol. Obtained was the title compound in a 92% yield and of sufficient purity to be used in the next synthesis step:

reactant | 4,7-Dihydroxy-5-methylcoumarin | 1.04 mmole, 200 mg | OC1=CC(OC2=CC(=CC(=C12)C)O)=O | C10H8O4
reactant | dimethoxyacetaldehyde | 8.7 mmole, 792 μL | COC(C=O)OC | C4H8O3
solvent | methanol | 5 mL | CO | CH4O
product | 3-(4,7-Dihydroxy-5-methyl-2-oxo-2H-chromene-3-yl)-7-hydroxy-9-methyl-2-methoxy-2,3-dihydro-4H-furo[3.2-c]chromene-4-one | 92% yield | OC1=C(C(OC2=CC(=CC(=C12)C)O)=O)C1C(OC2=C1C(OC=1C=C(C=C(C21)C)O)=O)OC | C23H18O9
